US06903215B2
Synthesis of 1,1,1-trifluoro-4-(4-fluoro-2-methoxyphenyl)-4-methylpentan-2-one
To a solution of 2.3 g (8.42 mmol) of 1,1,1-trifluoro-4-(4-fluoro-2-methoxyphenyl)-4-methylpentan-2-ol in 40 mL of dichloromethane was added the 4.96 (11.70 mmol) of Dess-Martin periodinane. After 1 hour, the mixture was concentrated and diluted with ether-hexanes (1:9) and filtered through a pad of silica gel, washing with 1:1 ether-hexanes. Use of a second pad of silica gel washing with EtOAc-hexanes (1:9) afforded the title compound as an oil. The product was dried under vacuum to a constant weight of 2 g (85%).

reactant | 1,1,1-trifluoro-4-(4-fluoro-2-methoxyphenyl)-4-methylpentan-2-ol | 8.42 mmol, 2.3 g | FC(C(CC(C)(C)C1=C(C=C(C=C1)F)OC)O)(F)F | C13H16F4O2
reactant | Dess-Martin periodinane | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
solvent | dichloromethane | 40 mL | ClCCl | CH2Cl2
product | 1,1,1-trifluoro-4-(4-fluoro-2-methoxyphenyl)-4-methylpentan-2-one | FC(C(CC(C)(C)C1=C(C=C(C=C1)F)OC)=O)(F)F | C13H14F4O2
